US08536169B2
N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1H-benzimidazole-2-carboxamide
1H-Benzimidazole-2-carboxylic acid (available from Apollo Scientific, 25 mg, 0.151 mmol), O-(7-Azabenzatriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (63 mg, 0.17 mmol) and 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine (50 mg, 0.15 mmol) were dissolved in anhydrous DMF (3 ml) and then treated with DIPEA (0.05 ml, 0.30 mmol). The reactions were then stirred at room temperature for 15 hours. The mixture was treated with methanol (3 ml) and then Macroporous-Tosic Acid (170 mg, 0.75 mmol) then stirred for 15 hours. The mixture was then treated with 0.88 ammonia solution (0.60 ml), stirred for 10 minutes, then filtered and solvent blown off under a stream of nitrogen. The crude residue was purified by Mass Directed Automated Preparative HPLC (Method B) to give after evaporation of solvents the title compound as a yellow solid (27 mg). LCMS (Method B) m/z 393 [MH+], Rt=1.04 min.

reactant | 1H-Benzimidazole-2-carboxylic acid | 0.151 mmol, 25 mg | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | 6-(1H-indol-4-yl)-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | 0.15 mmol, 50 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C20H20N4O
reactant | DIPEA | 0.30 mmol, 0.05 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonia | 0.60 ml | N | H3N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
product | N-[6-(1H-Indol-4-yl)-1H-indazol-4-yl]-1H-benzimidazole-2-carboxamide | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)NC(=O)C1=NC2=C(N1)C=CC=C2 | C23H16N6O
